US06172061B2
To a mixture of N-t-butoxycarbonylpiperidin-4-one (3 g; M. S. Ashwood et al., J. Chem. Soc. Perkin Trans. 1, 1995, 641-644) andmethylamine hydrochloride (1 g) were added triethylamine (2.1 ml) and 1,2-dichloroethane (50 ml). Under ice-cooling, to the mixture was added sodium triacetoxy boron hydride (4.5 g), and the mixture was stirred under nitrogen atmosphere at room temperature for 4 hours. The mixture was neutralized with sodium hydroxide, concentrated and extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution and dried with anhydrous magnesium sulfate. Under reduced pressure, the solvent was evaporated to give 1-t-butoxy-carbonyl-4-methylaminopiperidine (3.1 g) as colorless oil.

reactant | N-t-butoxycarbonylpiperidin-4-one | 3 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | hydrochloride | 1 g | Cl | ClH
reactant | triethylamine | 2.1 ml | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
product | 1-t-butoxy-carbonyl-4-methylaminopiperidine | 3.1 g | C(C)(C)(C)ON1C(CC(CC1)NC)=C=O | C11H20N2O2
